US05969146
13.5. Ethyl (6-hydroxybenzo [b]thien-3-yl)carbamate
46 ml of a 1M solution of boron tribromide (0.046 mol) in dichloromethane are added to a solution of 7.7 g (0.031 mol) of ethyl (6-methoxybenzo[b]thien-3-yl)carbamate in 80 ml of dichloromethane, while maintaining the temperature at 0° C. The mixture is allowed to return to room temperature and 15 ml of a 1M solution of boron tribromide (0.015 mol) in dichloromethane are added. The mixture is stirred for 180 min, neutralization is then carried out with a dilute ammonium hydroxide solution and the precipitate obtained is filtered off. The latter is washed with water and dried. Purification is carried out by chromatography on a column of silica gel with dichloromethane. 6 g of product are obtained.

reactant | boron tribromide | 0.046 mol | B(Br)(Br)Br | BBr3
reactant | ethyl (6-methoxybenzo[b]thien-3-yl)carbamate | 0.031 mol, 7.7 g | COC=1C=CC2=C(SC=C2NC(OCC)=O)C1 | C12H13NO3S
reactant | boron tribromide | 0.015 mol | B(Br)(Br)Br | BBr3
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | Ethyl (6-hydroxybenzo [b]thien-3-yl)carbamate | 6 g | OC=1C=CC2=C(SC=C2NC(OCC)=O)C1 | C11H11NO3S
